US07642361B2
3-(4-tert-Butyl-phenyl)-5-methylsulfanyl-thiophene-2,4-dicarbonitrile
Add 3-(4-tert-butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid amide(0.121 mmol) to 0.5 ml of CH3CN and add 18 mg paraformaldehyde and formic acid (1.59 mmol). Heat for 6 hrs. Concentrate and purify by radial chromatography eluting with ethyl acetate/hexanes to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 7.39 (q, 4H, J=12.0 Hz), 2.80 (s, 3H) and 1.42 (s, 9H).

reactant | 3-(4-tert-butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid amide | 0.121 mmol | C(C)(C)(C)C1=CC=C(C=C1)C1=C(SC(=C1C#N)SC)C(=O)N | C17H18N2OS2
reactant | paraformaldehyde | 18 mg | C=O | CH2O
reactant | formic acid | 1.59 mmol | C(=O)O | CH2O2
solvent | CH3CN | 0.5 ml | CC#N | C2H3N
product | 3-(4-tert-Butyl-phenyl)-5-methylsulfanyl-thiophene-2,4-dicarbonitrile | C(C)(C)(C)C1=CC=C(C=C1)C1=C(SC(=C1C#N)SC)C#N | C17H16N2S2
